US07872014B2
To a solution of methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate (2.0 g, 7.03 mmol) in dry THF (10 mL) was added dropwise a 1M solution of lithium aluminum hydride in THF (7.0 mL), and the resulting mixture was stirred at rt for 1 h. Then, water (0.27 mL) was added slowly, followed by 15% aqueous sodium hydroxide (0.27 mL), and more water (0.81 mL). The mixture was filtered, the filter cake washed with ethyl acetate, and the combined filtrate was concentrated. Column chromatography on silica (1:1 hexanes/ethyl acetate) gave (2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol (1.13 g, 63% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ6.96 (dd, 1H), 6.86 (m, 2H), 4.60 (d, 1H), 4.33 (m, 2H), 4.24 (t, 1H), 4.13 (m, 2H), 3.75 (m, 2H), 3.70 (m, 2H), 3.43 (s, 6H).

reactant | methyl 2,3-bis{[2-(methyloxy)ethyl]oxy}benzoate | 7.03 mmol, 2.0 g | COCCOC1=C(C(=O)OC)C=CC=C1OCCOC | C14H20O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.27 mL | O | H2O
reactant | sodium hydroxide | 0.27 mL | [OH-].[Na+]
reactant | water | 0.81 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
product | (2,3-bis{[2-(methyloxy)ethyl]oxy}phenyl)methanol | 1.13 g, 63% yield | COCCOC1=C(C=CC=C1OCCOC)CO | C13H20O5
